US06525077B2
Chloromethyl N-(tert-butoxycarbonylmethyl)-carbamate
A solution of chloromethyl chloroformate (1.69 g) in dichloromethane (5 ml) was added dropwise with stirring to an ice-cold solution of tert-butyl glycinate, hydrochloride (2.0 g) and diisopropylethylamine (3.7 g) in dichloromethane (20 ml). After stirring for a further 2 hours at room temperature, the mixture was extracted with ice-cold 0.5 M hydrochloric acid followed by water and aqueous sodium bicarbonate. Drying over magnesium sulfate and evaporation in vacuo gave the title compound as a colourless powder.

reactant | chloromethyl chloroformate | 1.69 g | ClC(=O)OCCl | C2H2Cl2O2
reactant | tert-butyl glycinate, hydrochloride | 2.0 g | Cl.NCC(=O)OC(C)(C)C
reactant | diisopropylethylamine | 3.7 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Chloromethyl N-(tert-butoxycarbonylmethyl)-carbamate | C(C)(C)(C)OC(=O)CNC(OCCl)=O | C8H14ClNO4
